US08202858B2
3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic Acid Tert-butyl Ester
(E)-3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-acrylic acid tert-butyl ester from Example E45.2 (436 mg, 0.99 mmol) was dissolved in methanol (40 ml) and hydrogenated over 10% Pd/C catalyst (91 mg) for 5 h. The mixture was filtered through Celite® filter agent and the filtrate was concentrated in vacuo and azeotroped with dichloromethane to yield the title compound (426 mg, 96%).

reactant | (E)-3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-acrylic acid tert-butyl ester | C(C)(C)(C)OC(\C=C\C1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C26H28N4O3
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 91 mg | [Pd] | Pd
product | 3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic Acid Tert-butyl Ester | 426 mg, 96% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C26H30N4O3
